US07271169B2
A solution of 3-(2-methylbenzothiazol-5-yloxy)-1-[4-({5-[4-(trifluoromethyl)phenyl]-(1,2,4-oxadiazol-3-yl)}methyl)piperazinyl]propan-2-ol (0.10 g) in toluene (6 ml) was added to a suspension of sodium hydride (0.09 g) in toluene (2 ml) at 0° C. The mixture was stirred at 100° C. for 2 hours, then cooled to 0° C. Methyl iodide (0.14 ml) was then added, and the mixture stirred overnight at room temperature. After slow addition of water the mixture was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate, and the solvent removed under reduced pressure. The residue was purified by flash chromatography (3% methanol in methylene chloride), to provide 5-{2-methoxy-3-[4-({5-[4-(trifluoromethyl)phenyl](1,2,4-oxadiazol-3-yl)}methyl)piperazinyl]propoxy}-2-methylbenzothiazole (0.0075 g).

reactant | 3-(2-methylbenzothiazol-5-yloxy)-1-[4-({5-[4-(trifluoromethyl)phenyl]-(1,2,4-oxadiazol-3-yl)}methyl)piperazinyl]propan-2-ol | 0.10 g | CC=1SC2=C(N1)C=C(C=C2)OCC(CN2CCN(CC2)CC2=NOC(=N2)C2=CC=C(C=C2)C(F)(F)F)O | C25H26F3N5O3S
reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | Methyl iodide | 0.14 ml | CI | CH3I
reactant | water | O | H2O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{2-methoxy-3-[4-({5-[4-(trifluoromethyl)phenyl](1,2,4-oxadiazol-3-yl)}methyl)piperazinyl]propoxy}-2-methylbenzothiazole | 0.0075 g | COC(COC=1C=CC2=C(N=C(S2)C)C1)CN1CCN(CC1)CC1=NOC(=N1)C1=CC=C(C=C1)C(F)(F)F | C26H28F3N5O3S
